** sch_path: /foss/designs/simp_SH.sch
**.subckt simp_SH VDD_samp CLK Voutn _CLK Vinn VSS_samp Voutp Vinp
*.ipin CLK
*.ipin _CLK
*.iopin VDD_samp
*.iopin VSS_samp
*.ipin Vinn
*.opin Voutn
*.ipin Vinp
*.opin Voutp
XM3 CLK_pnot CLK VSS_samp VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM1 CLK_pnot CLK VDD_samp VDD_samp sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM2 Cap_pbot _CLK VSS_samp VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM5 Cap_ptop net1 VDD_samp VDD_samp sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM6 net1 CLK_pnot Cap_ptop VDD_samp sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM7 CLK_pnot net1 Cap_pbot VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM8 net2 VDD_samp net1 VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM9 VSS_samp _CLK net2 VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM10 Vinn net1 Cap_pbot VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=10 mm_ok=1
XM12 CLK_nnot CLK VSS_samp VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM13 CLK_nnot CLK VDD_samp VDD_samp sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM14 Cap_nbot _CLK VSS_samp VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM16 Cap_ntop net3 VDD_samp VDD_samp sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM17 net3 CLK_nnot Cap_ntop VDD_samp sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM18 CLK_nnot net3 Cap_nbot VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM19 net4 VDD_samp net3 VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM20 VSS_samp _CLK net4 VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM21 Vinp net3 Cap_nbot VSS_samp sg13_hv_nmos w=0.3u l=0.45u ng=1 m=10 mm_ok=1
XC1 Cap_ntop Cap_nbot cap_cmim w=7.0e-6 l=7.0e-6 m=8 mm_ok=1
XC2 Cap_ptop Cap_pbot cap_cmim w=7.0e-6 l=7.0e-6 m=8 mm_ok=1
XM4 Voutp net3 Vinp VSS_samp sg13_lv_nmos w=0.15u l=0.13u ng=1 m=20 mm_ok=1
XM11 Voutn net1 Vinn VSS_samp sg13_lv_nmos w=0.15u l=0.13u ng=1 m=20 mm_ok=1
**.ends
.end
